US09062028B2
Step B. 4-(1-(4-(2,3-Dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzyl 4-nitrophenyl carbonate
The title compound was prepared using a procedure analogous to 3-bromobenzyl 4-nitrophenyl carbonate except that (3-bromophenyl)methanol was replaced with 4-(2,3-dimethylphenoxy)-1-(5-(4-(hydroxymethyl)phenyl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one. LCMS, [M+H]+=595.2. 1H NMR (400 MHz, CDCl3) δ 8.32-8.16 (m, 2H), 7.44 (d, J=7.8 Hz, 2H), 7.37 (d, J=9.1 Hz, 2H), 7.28-7.13 (m, 4H), 7.09 (s, 1H), 6.98 (t, J=7.8 Hz, 1H), 6.72 (d, J=7.4 Hz, 1H), 6.62 (d, J=8.0 Hz, 1H), 5.31 (s, 2H), 3.92 (br. s, 2H), 3.76 (t, J=6.7 Hz, 2H), 2.74 (t, J=7.1 Hz, 2H), 2.44 (br. s, 2H), 2.29-2.08 (m, 5H), 1.92 (s, 3H), 1.84-1.71 (m, 2H).

reactant | 3-bromobenzyl 4-nitrophenyl carbonate | C(OCC1=CC(=CC=C1)Br)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C14H10BrNO5
reactant | (3-bromophenyl)methanol | BrC=1C=C(C=CC1)CO | C7H7BrO
reactant | 4-(2,3-dimethylphenoxy)-1-(5-(4-(hydroxymethyl)phenyl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C2=CC=C(C=C2)CO)C=CC=C1C | C28H31NO3
product | 4-(1-(4-(2,3-Dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzyl 4-nitrophenyl carbonate | C(OCC1=CC=C(C=C1)C1=C2CCCN(C2=CC=C1)C(CCCOC1=C(C(=CC=C1)C)C)=O)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C35H34N2O7
